US07618985B2
This compound was prepared from (S)-3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester (195 mg, 1.04 mmol) and 1-amino-6-hydroxyisoquinoline (200 mg, 1.25 mmol) by the Mitsunobu procedure described in 3C, subsequent Boc deprotection according to procedure described in 3D gave (S)-6-(pyrrolidin-3-yloxy)-isoquinolin-1-ylamine, El-MS: m/z=230.3 [M+H]+.

reactant | (S)-3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 1.04 mmol, 195 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)O | C9H17NO3
reactant | 1-amino-6-hydroxyisoquinoline | 1.25 mmol, 200 mg | NC1=NC=CC2=CC(=CC=C12)O | C9H8N2O
product | (S)-6-(pyrrolidin-3-yloxy)-isoquinolin-1-ylamine | N1C[C@H](CC1)OC=1C=C2C=CN=C(C2=CC1)N | C13H15N3O
